US04891375
EXAMPLE 25 4-(4-(4-(4-(3-Cyanopyridin-2-yl)piperazinyl)butyl)-phenyl)-2-amino-thiazole
To a 100 ml round-bottomed flask equipped with condenser and N2 inlet were added 2.37 g (6.81 mmol) 4-(4-(4-chlorobutyl)phenyl)-2-aminothiazole hydrobromide, 1.28 g (6.81 mmol) 3-cyano-2-piperazinylpyridine, 2.38 ml (13.6 mmol) diisopropylethylamine, 1.44 g (13.6 mmol) sodium carbonate, 2 mg sodium iodide, and 40 ml methylisobutylketone. The reaction was refluxed 4 days, cooled, and evaporated. The residue was triturated with ethyl acetate and the resulting solid chromatographed on silica gel with methylene chloride/ethyl acetate. The product fractions were dissolved in ethyl acetate, precipitated with ethyl acetate saturated with HCl, and the precipitate filtered and dried to give a solid, 1.84 g (55%), m.p. 155-162° C. NMR (DMSO-d6) 1.6-1.8 (m, 4H), 2.67 (t, 2H), 3.1-4.4 (m, 10H), 7.34 (s, 1H), 7.1-8.5 (m, 7H), 11.3 (bs, 2H).

reactant | 4-(4-(4-chlorobutyl)phenyl)-2-aminothiazole hydrobromide | 6.81 mmol, 2.37 g | Br.ClCCCCC1=CC=C(C=C1)C=1N=C(SC1)N
reactant | 3-cyano-2-piperazinylpyridine | 6.81 mmol, 1.28 g | C(#N)C=1C(=NC=CC1)N1CCNCC1 | C10H12N4
reactant | diisopropylethylamine | 13.6 mmol, 2.38 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | 13.6 mmol, 1.44 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 2 mg | [I-].[Na+]
solvent | methylisobutylketone | 40 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(4-(4-(3-Cyanopyridin-2-yl)piperazinyl)butyl)-phenyl)-2-amino-thiazole | C(#N)C=1C(=NC=CC1)N1CCN(CC1)CCCCC1=CC=C(C=C1)C=1N=C(SC1)N | C23H26N6S
